US05384072
Preparation of 4-[trans-4-propylcyclohexyl)phenyl 3-isopropylidenecyclobutanecarboxylate
A mixture of 0.11 mol of DCC add 50 ml of dichloromethane is added at 0° C. to a mixture of 0.1 mol of 3-isopropylidenecyclobutanecarboxylate [sic] (prepared by the method of Gripps et al., Am. Soc. 81 (1959), 2723-2728) 0.1 mol of 4-(trans-4-propylcyclohexyl)phenol and 100 ml of dichloromethane. After the mixture has been stirred at room temperature for 16 hours and the solid constituents have been removed, conventional work-up gives the product.

reactant | DCC | 0.11 mol | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | 3-isopropylidenecyclobutanecarboxylate | 0.1 mol | C(C)(C)=C1CC(C1)C(=O)[O-]
reactant | 4-(trans-4-propylcyclohexyl)phenol | 0.1 mol | C(CC)[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)O | C15H22O
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 4-[trans-4-propylcyclohexyl)phenyl 3-isopropylidenecyclobutanecarboxylate | C(C)(C)=C1CC(C1)C(=O)OC1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)CCC | C23H32O2
